US09334279B2
To a 500 mL round-bottom flask charged with (1R,2S)-1-amino-N-((1-methylcyclopropyl)sulfonyl)-2-vinylcyclopropanecarboxamide trifluoroacetic acid salt (7.53 g, 21.0 mmol) was added a solution of (2S,4R)-1-((2S,3R,5R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (8.82 g, 21.38 mmol) in CH2Cl2 (100 mL). To the solution was added N,N-diisopropylethylamine (15 mL, 86 mmol) and DMF (15 mL) to afford a homogeneous orange solution. The flask was placed in a room temperature water bath. To the stirred solution was added HATU (9.59 g, 25.2 mmol). The solution was stirred at room temperature for 20 h. The reaction mixture was concentrated in vacuo and the resulting residue was dissolved in EtOAc (300 mL) and transfered to a 1 L separatory funnel. The solution was washed with aq. 1M HCl (4×225 mL). The combined aqueous phases were extracted with EtOAc (150 mL). The combined organics were dried over MgSO4; filtered, then concentrated in vacuo. The resulting residue was dissolved in MeOH and concentrated onto Celite in vacuo; the resulting powder was subjected to silica gel chromatography (hexanes:acetone, 90:10 to 60:40) to afford tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate as a colorless solid (5.56 g, 41%). MS: MS m/z 639.5 (M++1).

reactant | (1R,2S)-1-amino-N-((1-methylcyclopropyl)sulfonyl)-2-vinylcyclopropanecarboxamide trifluoroacetic acid salt | 21.0 mmol, 7.53 g | FC(C(=O)O)(F)F.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1(CC1)C
reactant | (2S,4R)-1-((2S,3R,5R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 21.38 mmol, 8.82 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](C[C@@H](CCC=C)C)C | C21H36N2O6
reactant | N,N-diisopropylethylamine | 86 mmol, 15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 25.2 mmol, 9.59 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | 5.56 g, 41% | O[C@@H]1C[C@H](N(C1)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O | C31H50N4O8S
